US07015218B1
N-{3-Cyano-4-[4-(5-methylisoxazol-4-ylcarbonyl)piperazin-1-yl]phenyl}-1-(4-fluorophenyl)-5-methylpyrazole-4-carboxamide
5-Methylisoxazole-4-carbonyl chloride (1.4 g) synthesized according to the method described in J. Chem. Soc. Perkin Trans. I, pp. 1875–1879 (1988) was added to a pyridine solution (20 ml) containing N-[3-cyano-4-(piperazin-1-yl)phenyl]-1-(4-fluorophenyl)-5-methylpyrazole-4-carboxamide (4 g) under ice-cooling, and the mixture was stirred for 1 h. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with dilute hydrochloric acid and saturated brine and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under pressure. Diisopropyl ether was added to the obtained residue to allow crystallization. The crystals were recrystallized from hydrous dimethylformamide to give the title compound (2.9 g), melting point: 208° C.

reactant | 5-Methylisoxazole-4-carbonyl chloride | 1.4 g | CC1=C(C=NO1)C(=O)Cl | C5H4ClNO2
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | N-[3-cyano-4-(piperazin-1-yl)phenyl]-1-(4-fluorophenyl)-5-methylpyrazole-4-carboxamide | 4 g | C(#N)C=1C=C(C=CC1N1CCNCC1)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)F | C22H21FN6O
solvent | water | O | H2O
product | N-{3-Cyano-4-[4-(5-methylisoxazol-4-ylcarbonyl)piperazin-1-yl]phenyl}-1-(4-fluorophenyl)-5-methylpyrazole-4-carboxamide | 2.9 g | C(#N)C=1C=C(C=CC1N1CCN(CC1)C(=O)C=1C=NOC1C)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)F | C27H24FN7O3
